US07868188B2
N-{4-Methyl-5-[5-(2-morpholinoethylaminosulfonyl)pyridin-3-yl]-1,3-thiazol-2-yl}acetamide
Using an analogous method to that described in Example 7, N-(5-iodo-4-methyl-1,3-thiazol-2-yl)acetamide was reacted with 5-bromo-N-(2-morpholinoethyl)pyridine-3-sulfonamide to give the title compound (Method A HPLC: retention time 3.7 minutes; 8 mg, 7%); 1H NMR Spectrum: (DMSOd6) 12.27 (1H, br s); 8.91 (1H, d); 8.87 (1H, d); 8.17 (1H, br t); 7.96 (1H, br s); 3.42 (4H, br t); 3.00 (2H, t); 2.40 (3H, s); 2.29 (2H, t); 2.22 (4H, br t); 2.16 (3H, s); Mass Spectrum: M+H+ 426.

reactant | N-(5-iodo-4-methyl-1,3-thiazol-2-yl)acetamide | IC1=C(N=C(S1)NC(C)=O)C | C6H7IN2OS
reactant | 5-bromo-N-(2-morpholinoethyl)pyridine-3-sulfonamide | BrC=1C=C(C=NC1)S(=O)(=O)NCCN1CCOCC1 | C11H16BrN3O3S
product | N-{4-Methyl-5-[5-(2-morpholinoethylaminosulfonyl)pyridin-3-yl]-1,3-thiazol-2-yl}acetamide | 8 mg, 7% | CC=1N=C(SC1C=1C=NC=C(C1)S(=O)(=O)NCCN1CCOCC1)NC(C)=O | C17H23N5O4S2
